Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / oxycodone
 
Attending: ___
 
Chief Complaint:
Peripheral edema and ___
 
Major Surgical or Invasive Procedure:
Percutaneous kidney biopsy ___

 
History of Present Illness:
___ is a ___ w/ recently diagnosed lupus, Sjogrens 
and HTN who was referred for expedited workup of progressive 
proteinuria and acute kidney injury. 

In ___, Ms. ___ developed increasing lower extremity edema 
along with parotid gland enlargement. She was seen by 
rheumatology and placed on high doses of prednisone for possible 
Sjogren's. However in ___ her ___ edema progressed, became tense 
and associated w/ ecchymoses. Given her remote history of
anorexia and bulimia she does not weigh herself but scales in 
the medical record suggest a greater than 25 pound weight gain. 
ROS otherwise positive for >1h hand stiffness in the AM. She 
otherwise denied CP, SOB, abdominal pain, diarrhea, N/V, 
melena/hematochezia, dysuria, hematuria, F/C, rashes. She has
never had any blood clots but both parents have had PEs. 
Outpatient workup so far has suggested a positive ___ with high 
titer, dsDNA, anti-SM, SSA/SSB, C3-C4; normal HIV, cardiolipiin, 
beta-2-glycoprotein, lupus anticoagulant (positive screen but 
negative confirmatory test) and hepatitis serologies. Urine 
protein/creatinine ratio was found to be 9.79, c/f nephrotic
syndrome. There had been some discussion to start mycophenolate, 
but was referred for renal evaluation first. 
However, routine pre-procedure labs showed rapid  progression of 
renal dysfunction (creatinine 1.12--> 1.8) with new elevation in 
PTT (confirmed on repeat) all concerning for autoimmune 
condition of some sort. Biopsy deferred given abnormal coags and 
she is instead being admitted for an expedited workup in the 
setting of rapidly progressive renal dysfunction with new 
disorder of
coagulation.  

On admission to the floor, the patient feels alright, she is 
mainly concerned about her renal function. She states that her 
lower extremity edema has improved in the last week since her 
torsemide dose was increased from 20mg qd to 60mg qd.  

ED Course:
VSS
Labs notable for Cr 1.8, BUN 37, C3 80, C4 7, PTT 81
Received prednisone 60 mg, hydroxychloroquine 400 mg and Tylenol

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Cardiac arrhythmia
MV prolapse
___ herpes
HTN
uses Adderall only for studying
fibroids
Migraines
Menopause
Bulimia
lupus (recently diagnosed)
 
Social History:
___
Family History:
Mother with HTN, and T2DM, PE
Father w/ PE
Son with ___. 
Sister with ___ Cell cancer (deceased)
Brother deceased (alcoholism), DVT
Cousin w/ SLE

 
Physical Exam:
Admission Exam:
=================
97.2 °F (36.2 °C) 75 16 ___ ___
GENERAL: AA woman looking younger than her stated age alert and
in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: mild crackles in the L base, otherwise CTAB.  Breathing is
non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
EXT: 1+ pitting pedal edema b/l
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Exam:
================
VITALS: 
___ ___ Temp: 97.7 PO BP: 137/83 R Lying HR: 60 RR: 16 O2 
sat: 100% O2 delivery: RA  

EXAMINATION:
General: Well appearing comfortable, Anxiously anticipating 
discharge, but understands plan to discharge tomorrow. 
HEENT: Anicteric, eyes conjugate, moist oral mucosa
Cardiovascular: Regular rate and rhythm. No murmur. No JVD. 
Radial and DP pulses present. No lower extremity edema. 
Pulmonary: Lung fields clear to auscultation throughout
Gastroinestinal: Abdomen is soft, non-tender, non-distended, 
bowel sounds present. No CVA tenderness. 
MSK: No peripheral edema
Skin: No rashes or ulcerations evident
Neurological: Alert, interactive, speech fluent, face symmetric, 
moving all extremities
Psychiatric: pleasant, appropriate affect 

 
Pertinent Results:
Recent Outpatient Labs:
========================
TSH 2.23 (prev 4.47 in ___
___ 1:1280
dsDNA 247 H
Sm Ab 46 H
SSA >80
SSB >80
RNP 52 H
ANCA anti-PR3 & anti-MPO neg (___)
beta-2-cardiolipin neg
lupus anticoagulant screen positive, but confirmatory test
negative (? factor deficiency?)
C4 <10
C3 49.2 

Hepatitis BsAb neg, CoreAb neg
Hepatitis C Ab neg

Urine protein/creatinine ratio 9.79
albumin 2.7
quantiferon gold neg

Admission Labs:
=================
___ 08:20AM BLOOD WBC-9.0 RBC-3.55* Hgb-10.8* Hct-33.3* 
MCV-94 MCH-30.4 MCHC-32.4 RDW-15.3 RDWSD-53.1* Plt ___
___ 08:20AM BLOOD ___ PTT-106.4* ___
___ 09:20AM BLOOD ___ 10:55AM BLOOD Thrombn-18.7*
___ 10:55AM BLOOD VWF AG-376*
___ 08:20AM BLOOD UreaN-37* Creat-1.8* Na-143 K-4.1 Cl-100 
HCO3-31 AnGap-12
___ 09:20AM BLOOD Albumin-3.2* Iron-52 Cholest-377*

Interval labs:
================
___ 09:20AM BLOOD calTIBC-256* ___ Ferritn-729* 
TRF-197*
___ 08:20AM BLOOD ANCA-NEGATIVE B
___ 08:20AM BLOOD ___ Titer-1:1280*
___ 08:20AM BLOOD C3-80* C4-7*

Fibrinogen normal, Thrombin mildly elevated
VWF AG elevated (can be acute phase reactant)
Inhibitor screen cancelled given normal PTT
Lupus anticoagulant pending
B2 glycoprotein pending
anti-cardiolipin antibodies pending

Renal Biopsy Pathology: prelim showing membranous class V 
disease with mixed picture of proliferative disease (type III or 
IV) with crescents

Discharge Labs:
==================

___ 06:25AM BLOOD WBC-10.5* RBC-3.33* Hgb-10.2* Hct-31.7* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-14.7 RDWSD-51.4* Plt ___
___ 06:00AM BLOOD ___ PTT-26.6 ___
___ 06:00AM BLOOD Glucose-352* UreaN-44* Creat-1.4* Na-139 
K-4.2 Cl-99 HCO3-27 AnGap-13
___ 06:00AM BLOOD Calcium-8.8 Phos-2.8 Mg-2.1
 
Brief Hospital Course:
___ is a ___ w/ recently diagnosed lupus, Sjogrens 
and HTN who was referred for expedited workup of progressive 
proteinuria and acute kidney injury with elevated PTT, 
concerning for rapidly progressive nephrotic syndrome.

ACUTE/ACTIVE PROBLEMS:
# ___
# Presumed SLE with likely Lupus nephritis
# Nephrotic syndrome
Patient presented with high-grade proteinuria, anasarca, 
hypoalbuminemia, and urine sediment with fat droplets and 
lipid-laden casts, all consistent with acute nephrotic
syndrome. Decision was made to pursue renal biopsy to further 
understand kidney disease and guide treatment. Labs on admission 
notable for elevated ___ and ___ complement. Kidney biopsy 
pathology showed class V membranous disease as well as evidence 
of proliferative disease with crescents. She was started on 
pulse dose solumedrol 500mg IV x3 days and cellcept. 
Hydroxychloroquine continued through admission. Will be 
discharged on cellcept 500mg BID x7 days (through ___ then 
increased to 1000mg BID. Prednisone 60mg daily resumed after 
pulse dose steroids with plan to continue until rheumatology 
follow-up. She was started on Bactrim, vit D/Calcium and PPI for 
GI ppx in the setting of high dose steroids. Home lisinopril and 
torsemide were continued during this admission. 

#Coagulopathy
In general patients with nephrotic syndrome are in a 
hypercoagulable state due to loss of antithrombin III and 
enhanced platelet activity, however they can sometimes have 
paradoxically prolonged aPTTs. Given the isolated PTT elevation, 
differential includes new factor inhibitor or factor deficiency 
including possible ___ factor deficiency vs contribution 
from APLS. PTT normalized while inpatient. She would benefit 
from outpatient f/u with hematology for work-up of intermittent 
PTT elevation and consideration of testing for ___ 
deficiency which is a rare cause of PTT elevation which her 
sister also has. 

#Normocytic anemia: Iron studies consistent with anemia of 
chronic disease. 

#HTN: Continued lisinopril

#ADHD: Held Adderall, but okay to restart on discharge. 

#Herpes labialis: Held acyclovir initially given ___. Restarted 
after kidney biopsy resulted.

#Migraines: Sumatriptan held this admission, but okay to restart 
on discharge. 

Transitional Issues:
======================
[ ]f/u Beta-2 glycoprotein, anti-cardiolipin ab, lupus 
anticoagulant
[ ]f/u PLA2R
[ ]Please repeat PTT in ___ weeks
[ ]Please refer to outpatient hematology for ongoing evaluation 
of intermittent prolonged PTT and consideration of w/u for 
___ deficiency
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxychloroquine Sulfate 200 mg PO BID 
2. Torsemide 60 mg PO DAILY 
3. PredniSONE 60 mg PO DAILY 
4. Lisinopril 5 mg PO DAILY 
5. Amphetamine-Dextroamphetamine 5 mg PO DAILY:PRN when studying 

6. Acyclovir 400 mg PO Q12H ppx 
7. Potassium Chloride 10 mEq PO DAILY 
8. Sumatriptan Succinate 50 mg PO DAILY:PRN migraine 
9. Hydrocortisone Cream 2.5% 1 Appl TP BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg 2 tablet(s) by mouth Q6H as needed Disp 
#*30 Tablet Refills:*0 
2.  Calcium Carbonate 500 mg PO BID 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth twice a day Disp #*60 Tablet Refills:*0 
3.  Mycophenolate Mofetil 1000 mg PO BID 
RX *mycophenolate mofetil 500 mg 2 capsule(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0 
4.  Mycophenolate Mofetil 500 mg PO BID Duration: 4 Days 
please transition to 1000 mg as ordered on ___ 
RX *mycophenolate mofetil 500 mg 1 capsule(s) by mouth twice a 
day Disp #*10 Tablet Refills:*0 
5.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
6.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
Taken for prophylaxis when on high dose steroids 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*0 
7.  Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 capsule(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
8.  Acyclovir 400 mg PO Q12H ppx  
9.  Amphetamine-Dextroamphetamine 5 mg PO DAILY:PRN when 
studying  
10.  Hydrocortisone Cream 2.5% 1 Appl TP BID  
11.  Hydroxychloroquine Sulfate 200 mg PO BID  
12.  Lisinopril 5 mg PO DAILY  
13.  PredniSONE 60 mg PO DAILY  
14.  Sumatriptan Succinate 50 mg PO DAILY:PRN migraine  
15.  Torsemide 60 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Proteinuria/nephrotic syndrome
Systemic lupus
Elevated PTT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital due to worsening kidney 
disease thought to be due to newly diagnosed Lupus. You 
underwent a biopsy of your kidney which showed evidence of 
active kidney disease from your lupus. You were given high dose 
IV steroids and started on a new medication called mycophenolate 
mophetil (cellcept) which you will continue taking after 
discharge. Please restart your prednisone 60mg daily on ___, 
___. 

You were also noted to have an elevated PTT (a measure of your 
body's ability to clot). This normalized while you were here. 
You will need a repeat check of your PTT within ___ weeks of 
discharge to ensure that it remains normal and should talk to 
your PCP about following up with hematology after discharge.  

Medication Changes:
===================
START MMF (Cellcept) - take 500mg twice daily through ___ then 
take 1000mg twice daily there after
CONTINUE Prednisone 60mg daily - next dose ___
START Bactrim 1 SS tab daily for prevention of PCP pneumonia 
while on high dose steroids
START Calcium and Vitamin D
START Omeprazole

Please take all of your medications as prescribed and follow-up 
with your primary care doctor, rheumatologist and nephrologist 
as below. 

It was a pleasure taking care of you,
Your ___ Care Team
 
Followup Instructions:
___